US04044057
1,15-dimethyltricyclo[10.3.0.02,11 ]pentadecane-13-ol
1,13,15-trimethyltricyclo[10.3.0.02,11 ]pentadecane-13-ol tricyclo]9.4.0.02,10 ]pentadecane-12-ol

reactant | 1,13,15-trimethyltricyclo[10.3.0.02,11 ]pentadecane-13-ol | CC12C3CCCCCCCCC3C2C(CC1C)(O)C | C18H32O
reactant | pentadecane-12-ol | CCCCCCCCCCCC(CCC)O | C15H32O
product | 1,15-dimethyltricyclo[10.3.0.02,11 ]pentadecane-13-ol | CC12C3CCCCCCCCC3C2C(CC1C)O | C17H30O
